* lif_demo_network [FAST]

VDD vdd 0 5.0
VREF vref 0 2.5
* ---------- demo_neuron DETAILED neuron subcircuit ----------
.subckt demo_neuron_fast mem vref vdd comp_out analog_out sum
* Vref buffer (OPA604-like)
Ebuf vref_buf 0 vref 0 1e5
Rbuf vref_buf vref 1k
Cbuf vref 0 80p
Rvr  vref vref_buf 1m
* TIA op-amp with finite gain and compensation
Eint mem 0 sum vref 2e5
Rout_int mem 0 20
Cint mem 0 5p
Cmem  mem sum 1e-08
Rleak mem sum 120000.0
* Divider to place threshold near Vref + over_vref_V
Rvh  vdd     vth_node 3.4e+05
Rvl  vth_node vref    1.58e+05
Rf   comp_out vth_node 1.07e+07
Cadapt vth_node vref 2.2e-08
.model DADAPT D(Is=1e-6 N=1.05 Rs=2 Cjo=1p Eg=0.69)
Rinj  comp_out ninj 2.2Meg
Dinj  ninj vth_node DADAPT
.param VLO=0.0 VHI=5.0
Bdef vdef 0 V = V(vref) - V(mem)
Btheta_rel vtheta_rel 0 V = V(vth_node) - V(vref)
* Hard comparator: high when vdef > vtheta_rel + offset
Bcomp comp_raw 0 V = VLO + (VHI - VLO)*u( V(vdef) - ( V(vtheta_rel) + 0.003 ) )
Rcout comp_raw comp_out 10.0
Ccout comp_out 0 4e-09
Rreset mem reset_node 200.0
Coff_reset reset_node vref 7e-12
Sreset reset_node vref comp_out 0 SWMUX
.model SWMUX SW(Ron=10.0 Roff=1000000000.0 Vt=2.5 Vh=0.1)
* Analog output stage
Bdiff ana_in 0 V = V(mem) - V(vref)
* Inverting amplifier op-amp (OPA-like)
Eana_opamp ana_opamp_out 0 0 ana_inv_in 1e5
Rana_int ana_opamp_out analog_out 50
Cana_comp analog_out 0 2p
R1_ana ana_in ana_inv_in 1e+04
R2_ana analog_out ana_inv_in 2e+04
Rana_load analog_out 0 150.0
.ends

XNEU mem vref vdd comp ana sum demo_neuron_fast
Ra_out   ana n_outmix 100
Diso     comp n_outmix D_SCHOTTKY
Rload    n_outmix 0 10k
.model   D_SCHOTTKY D(Is=1e-6 N=1.05 Rs=2 Cjo=2p Vj=0.3 M=0.3 Eg=0.69)
Vsrc_syn1 n_syn1 vref PWL(0.0 0.0 0.005 0.0 0.005001 1.2 0.005399 1.2 0.0054 0.0)

R_syn1 n_syn1 sum 33000.0
Vsrc_syn2 n_syn2 vref PWL(0.0 0.0 0.0115 0.0 0.011501 1.2 0.011849 1.2 0.01185 0.0 0.017 0.0 0.017001 1.2 0.017349 1.2 0.01735 0.0)

R_syn2 n_syn2 sum 66000.0
Vsrc_syn3 n_syn3 vref PWL(0.0 0.0 0.026 0.0 0.026001 1.2 0.026599 1.2 0.0266 0.0 0.034 0.0 0.034001 1.2 0.034599 1.2 0.0346 0.0)

R_syn3 n_syn3 sum 165000.0

.control
  set filetype=ascii
  set wr_singlescale
  set wr_vecnames
  tran 1e-06 0.05
  wrdata /Users/eoghancollins/Tarskii/SPICE/neuronSim/outputs/lif_fast.csv time v(vref) v(mem) v(comp) v(ana) v(n_outmix) v(sum) v(n_syn1) v(n_syn2) v(n_syn3) i(VDD) i(VREF)
  quit
.endc

.end
